US08492378B2
methyl 1-(methoxymethyl)-1H-indazole-5-carboxylate
To a solution of methyl 1H-indazole-5-carboxylate (5.02 g, 28.5 mmol) in N,N-dimethylformamide (60 mL) was added sodium hydride (60% in oil, 1.26 g, 31.5 mmol) at room temperature, and the resulting mixture was stirred for 10 min. To this reaction mixture was added dropwise a solution of (chloromethyl)methylether (2.39 mL, 31.5 mmol) in tetrahydrofuran (20 mL) at −20° C. over 10 min, and the resulting mixture was allowed to warm to room temperature over 2 hr. The reaction mixture was diluted with ethyl acetate, washed twice with water and once with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1), and crystallized from hexane/ethyl acetate to give the title compound (3.62 g, yield 58%) as colorless crystals.

reactant | methyl 1H-indazole-5-carboxylate | 28.5 mmol, 5.02 g | N1N=CC2=CC(=CC=C12)C(=O)OC | C9H8N2O2
reactant | sodium hydride | 31.5 mmol, 1.26 g | [H-].[Na+]
reactant | (chloromethyl)methylether | 31.5 mmol, 2.39 mL | ClCOC | C2H5ClO
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-(methoxymethyl)-1H-indazole-5-carboxylate | 3.62 g, yield 58% | COCN1N=CC2=CC(=CC=C12)C(=O)OC | C11H12N2O3
